US09428509B2
N-(5-Chloro-1-ethyl-1H-pyrazol-4-yl)-4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine
N-(5-Chloro-1-ethyl-1H-pyrazol-4 yl)-4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine (1 equiv) dissolved in 1 M tetrabutylammonium fluoride in THF (6.3 equiv). The mixture was stirred at 80° C. for 12 h. After cooling to room temperature, the reaction was diluted with THF (0.063 M) and cesium carbonate (5 equiv) was added. The solids were filtered and the filtrate was dried over sodium sulfate and concentrated. The crude product was purified to give the desired compound (19.7% yield). 1H NMR (400 MHz, CHLOROFORM-d1) δ ppm 8.81 (br. s, 1H), 8.13 (s, 1H), 7.81 (s, 1H), 7.62-7.56 (m, 2H), 6.91 (s, 1H), 6.30 (s, 1H), 5.68-5.65 (m, 1H), 4.18 (q, J=7.2 Hz, 2H), 2.66 (s, 3H), 1.95-1.87 (m, 4H), 1.74-1.68 (m, 2H), 1.43 (t, J=7.2 Hz, 3H). MS (ESI) m/z 478.2 [M+H]+.

reactant | N-(5-Chloro-1-ethyl-1H-pyrazol-4 yl)-4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 1 equiv | ClC1=C(C=NN1CC)NC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C30H38ClN7O3Si
reactant | cesium carbonate | 5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.063 M | C1CCOC1 | C4H8O
solvent | THF | 6.3 equiv | C1CCOC1 | C4H8O
product | N-(5-Chloro-1-ethyl-1H-pyrazol-4-yl)-4-(cyclopentyloxy)-5-(2-methylbenzo[d]oxazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 19.7% yield | ClC1=C(C=NN1CC)NC=1N=C(C2=C(N1)NC=C2C2=CC1=C(N=C(O1)C)C=C2)OC2CCCC2 | C24H24ClN7O2
